US05656642
4.7 g of 1,2,4-triazole and 9.5 g of potassium carbonate were added to a solution of 15 g of benzyl 4-bromobutyrate in 150 ml of acetonitrile. The mixture was refluxed by heating, for 1 hour. The reaction mixture was concentrated under reduced pressure. To the residue was added 30 ml of methylene chloride. The insolubles were collected by filtration and washed. The filtrate and the washings were combined and purified by silica gel column chromatography (eluant: methylene chloride/methanol=50/1) to obtain 11.6 g of benzyl 4-(1,2,4-triazol-1-yl)butyrate as a colorless oily substance.

reactant | 1,2,4-triazole | 4.7 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 9.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl 4-bromobutyrate | 15 g | BrCCCC(=O)OCC1=CC=CC=C1 | C11H13BrO2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | benzyl 4-(1,2,4-triazol-1-yl)butyrate | 11.6 g | N1(N=CN=C1)CCCC(=O)OCC1=CC=CC=C1 | C13H15N3O2
